US07884207B2
To the 1.5 hydrate of 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol dihydrochloride (1.00 g, 2.20 mmol, prepared in a similar manner as described in Example 5) was added chloroform (150 mL) and triethylamine (1.1 mL, 7.7 mmol). The starting material did not completely dissolve. To the mixture was added methanesulfonyl chloride (MeSO2Cl, 0.19 mL, 2.42 mmol) and more triethylamine (0.3 mL). After 4 h at rt, more MeSO2Cl (0.06 mL) and triethylamine (0.3 mL) were added and the mixture was stirred overnight. Pyridine (20 mL) and dimethylformamide (DMF, 20 mL) were added, followed by MeSO2Cl (0.06 mL). To the mixture was added methanesulfonyl anhydride (115 mg) and the mixture was allowed to stand for 2 d. The mixture was filtered, and the filtrate was concentrated to approximately 25 mL, which was diluted with chloroform (400 mL) and extracted with 1 M NaOH (2×150 mL), water (150 mL), and brine (200 mL). The organic phase was dried over Na2SO4, filtered, and concentrated to a yellow oil. The crude product was purified by flash chromatography (silica gel, eluted with 1% CMA/CHCl3 where CMA is a solution comprised of 80:18:2 chloroform/methanol/concentrated ammonium hydroxide) to afford 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-1-(methylsulfonyl)piperidin-4-ol as a white solid (0.34 g, 36%) after drying at 60° C. under reduced pressure, mp 254-256° C. 1H NMR (300 MHz, DMSO-d6) δ 8.35 (dm, J=8.4 Hz, 1H), 7.59 (dd, J=8.4, 1.4 Hz, 1H), 7.41 (m, 1H), 7.23 (m, 1H), 6.57 (br s, 2H), 5.16-4.60 (br m, 4H), 5.05 (s, 1H), 3.53 (q, J=7.0 Hz, 2H), 3.37-3.27 (br s, 2H), 2.89-2.79 (m, 2H), 2.81 (s, 3H), 1.93-1.78 (m, 2H), 1.62-1.29 (br s, 2H), 1.14 (t, J=7.0 Hz, 3H); MS (APCI) m/z 434 (M+H)+; Anal. calcd for C20H27N5O4S: C, 55.41; H, 6.28; N, 16.15; S, 7.40. Found: C, 55.21; H, 6.11; N, 16.35; S, 7.37.

reactant | 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}piperidin-4-ol dihydrochloride | Cl.Cl.NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCNCC2)O)COCC
reactant | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | 7.7 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.42 mmol, 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | MeSO2Cl | 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | MeSO2Cl | 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-1-(methylsulfonyl)piperidin-4-ol | 0.34 g, 36% | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCN(CC2)S(=O)(=O)C)O)COCC | C20H27N5O4S
